US05998436
Synthesis of 1-(4-amino-5-fluoropyrimidin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To a mixed solution (1:1, v/v) of 0.4 ml of 4N hydrochloric acid and 1 ml of acetic acid was added 90 mg of ethyl 1-[4-(t-butylamino)-5-fluoropyrimidin-2-yl]-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate, and the mixture was heated under reflux with stirring for 3 and half hours and allowed to cool. The precipitate was collected by filtration, and washed with ethanol and diisopropylether successively to obtain 48 mg of the title compound as a colorless powder.

reactant | hydrochloric acid | 4N, 0.4 ml | Cl | ClH
reactant | ethyl 1-[4-(t-butylamino)-5-fluoropyrimidin-2-yl]-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 90 mg | C(C)(C)(C)NC1=NC(=NC=C1F)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)OCC | C20H18ClF3N4O3
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 1-(4-amino-5-fluoropyrimidin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 48 mg | NC1=NC(=NC=C1F)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O | C14H6ClF3N4O3
